// Automatically generated SPECTRE input file.
// PS4X8
include "/home/msc16f2/potstill/sim/preamble.scs"
include "PS4X8.cir"
X (CK RE RA0 RA1 RD0 RD1 RD2 RD3 RD4 RD5 RD6 RD7 WE WA0 WA1 WD0 WD1 WD2 WD3 WD4 WD5 WD6 WD7 VDD 0) PS4X8
parameters tslew=30p
VDD (VDD 0) vsource type=dc dc=1.2
VCK (CK 0) vsource type=pulse val0=0 val1=1.2 delay=1n width=1n-tslew period=3n rise=tslew fall=tslew
VRE (RE 0) vsource type=pulse val0=0 val1=1.2 delay=3n width=12n-tslew period=24n rise=tslew fall=tslew
VWE (WE 0) vsource type=pulse val0=0 val1=1.2 delay=15n width=24n-tslew rise=tslew fall=tslew
VWA0 (WA0 0) vsource type=pulse val0=0 val1=1.2 delay=6n width=3n-tslew period=6n rise=tslew fall=tslew
VWA1 (WA1 0) vsource type=pulse val0=0 val1=1.2 delay=9n width=6n-tslew period=12n rise=tslew fall=tslew
VRA0 (RA0 0) vsource type=dc dc=0
VRA1 (RA1 0) vsource type=dc dc=0
VWD0 (WD0 0) vsource type=dc dc=0
VWD1 (WD1 0) vsource type=dc dc=0
VWD2 (WD2 0) vsource type=dc dc=0
VWD3 (WD3 0) vsource type=dc dc=0
VWD4 (WD4 0) vsource type=dc dc=0
VWD5 (WD5 0) vsource type=dc dc=0
VWD6 (WD6 0) vsource type=dc dc=0
VWD7 (WD7 0) vsource type=dc dc=0
pwr tran stop=40n errpreset=conservative write="spectre.ic" writefinal="spectre.fc" readns="PS4X8.ns"
save VDD:p
save CK RE WE
save RA* depth=1
save RD* depth=1
save WA* depth=1
save WD* depth=1